### ISSUE TITLE
Error "(kernel) application type mismatch" in theorem on inductive type

### ISSUE THREAD

**Issue by tom93** [leanprover/lean4#8839]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

I'm getting the error above in strange circumstances. My reproducer has two almost-identical recursive theorems, the error occurs when the second theorem use the first theorem instead of recursing.

*Update:* This appears to be related to `cases` and the wf termination checker, see https://github.com/leanprover/lean4/issues/8839#issuecomment-2980413352.

This might be related to #6544, however that uses `induction` while my main reproducer doesn't.

It might also be related to #8488, I can't tell if they are caused by the same issue.

### Steps to Reproduce

```lean
abbrev Ctx := List String

/-- Uncurried lambda expressions. -/
inductive Expr1 where
  | abs : List String → Expr1 → Expr1
--| var : String → Expr1
--| app : ...

/-- Curried lambda expressions. -/
inductive Expr2 where
  | abs : String → Expr2 → Expr2

/-- Conversion from Expr1 to Expr2. -/
def conv : Expr1 → Expr2
  | .abs xs b => xs.foldr .abs (conv b)

-- In the real program Prop1 is interesting, but in this minimal version it's almost trivial.
inductive Prop1 : Ctx → Expr1 → Prop
  | abs_rule (Γ : Ctx) (xs : List String) (b : Expr1) :
      Prop1 (xs.reverse ++ Γ) b →
      Prop1 Γ (.abs xs b)

-- Likewise for Prop2.
inductive Prop2 : Ctx → Expr2 → Prop where
  | abs_rule (Γ : Ctx) (x : String) (b : Expr2) :
      Prop2 (x :: Γ) b →
      Prop2 Γ (.abs x b)

-- Theorem: `conv` preserves the property.
-- No errors.
theorem conv_prop_v1 (Γ : Ctx) (e : Expr1) : Prop1 Γ e → Prop2 Γ (conv e) := by
  intro h; cases h with
  | abs_rule Γ xs b hb =>
    simp only [conv]
    match _ : xs with
    | .nil =>
      simp_all
      apply conv_prop_v1
      exact hb
    | .cons x xs' =>
      simp_all
      apply Prop2.abs_rule
      rw [←conv]
      apply conv_prop_v1
      apply Prop1.abs_rule
      exact hb

-- Same theorem with almost the same proof, except it uses `conv_prop_v1` instead of recursion in one place.
/-
ERROR:
(kernel) application type mismatch
  @x✝.1 (@id (Prop1 Γ✝ b) hb)
argument has type
  Prop1 Γ✝ b
but function has type
  Prop1 Γ b → Prop2 Γ (conv b)
-/
theorem conv_prop_v2 (Γ : Ctx) (e : Expr1) : Prop1 Γ e → Prop2 Γ (conv e) := by
  intro h; cases h with
  | abs_rule Γ xs b hb =>
    simp only [conv]
    match _ : xs with
    | .nil =>
      simp_all
      apply conv_prop_v2 -- normal recursion
      exact hb
    | .cons x xs' =>
      simp_all
      apply Prop2.abs_rule
      rw [←conv]
      apply conv_prop_v1 -- NOTE: this uses `conv_prop_v1` instead of recursion
      apply Prop1.abs_rule
      exact hb

-- Note:
-- Changing the recursive application `apply conv_prop_v2` to also use
-- `conv_prop_v1` makes the error disappear (!).
```

**Expected behavior:** No error.

**Actual behavior:** Error.

### Versions

4.20.0, 4.21.0-rc3, 4.22.0-nightly-2025-06-16

### Additional Information

I'm not sure how the variables of the constructors are determined. If I change `(xs.reverse ++ Γ)` to `Γ` in `Prop1`, then `Γ` is no longer a variable of `Prop1.abs_rule` (the line `| abs_rule Γ xs b hb =>` becomes an error: "too many variable names provided at alternative"). I'm not sure if this is relevant.

I have another reproducer that uses a single theorem and `induction`:

```lean
-- Hacks to make the proof to work.
-- In the real program Γ is important, but in this minimal version it's basically unused.
theorem Prop1_ignores_Γ (Γ Γ' : Ctx) (e : Expr1) : Prop1 Γ e → Prop1 Γ' e := by
  intro h; cases h with
  | abs_rule Γ xs b hb => exact Prop1.abs_rule _ _ _ (Prop1_ignores_Γ _ _ _ hb)
theorem Prop2_ignores_Γ (Γ Γ' : Ctx) (e : Expr2) : Prop2 Γ e → Prop2 Γ' e := by
  intro h; cases h with
  | abs_rule Γ x b hb => exact Prop2.abs_rule _ _ _ (Prop2_ignores_Γ _ _ _ hb)

-- Theorem: `conv` preserves the property.
/-
ERROR:
(kernel) application type mismatch
  @x✝.1 (@id (Prop1 Γ✝ b) hb)
argument has type
  Prop1 Γ✝ b
but function has type
  Prop1 Γ b → Prop2 Γ (conv b)
-/
theorem conv_prop_v3 (Γ : Ctx) (e : Expr1) : Prop1 Γ e → Prop2 Γ (conv e) := by
  intro h; cases h with
  | abs_rule Γ xs b hb =>
    simp only [conv]
    induction xs with
    | nil =>
      simp_all
      trace_state -- hb : Prop1 Γ b  ⊢  Prop2 Γ (conv b)
      apply conv_prop_v3
      exact hb
    | cons x xs' ih =>
      simp_all
      apply Prop2.abs_rule
      apply Prop2_ignores_Γ
      apply ih
      apply Prop1_ignores_Γ
      exact hb
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Not a full investigation, but some facts:

This definition is `termination_by e`, so wf-rec on the expression.

Changing the `cases h` to a `match` expression avoids the issue.
```
theorem conv_prop_v2 (Γ : Ctx) (e : Expr1) : Prop1 Γ e → Prop2 Γ (conv e) := by
  intro h
  match h with
  | .abs_rule Γ xs b hb =>
    simp only [conv]
    match _ : xs with
    | .nil =>
      simp_all
      apply conv_prop_v2 -- normal recursion
      exact hb
    | .cons x xs' =>
      simp_all
      apply Prop2.abs_rule
      rw [←conv]
      apply conv_prop_v1 -- NOTE: this uses `conv_prop_v1` instead of recursion
      apply Prop1.abs_rule
      exact hb
termination_by e
```
So it seems that `cases` does something (generalizing Gamma) that confuses the wf termination checker.

**Comment by tom93** [comment]
<details>
<summary>
Original message
</summary>
Hi @nomeata, thanks for investigating and for the hint about `match`.

I tried switching to `match` in my original code and got another "type mismatch" error (non-kernel this time). I'm not sure whether this is the same bug / different bug / working as intended. I reproduced it in the minimal example by changing `(xs.reverse ++ Γ)` to `Γ` in `Prop1`. Simplified version:

```lean
abbrev Ctx := List String

inductive Expr1 where
  | abs : List String → Expr1 → Expr1

inductive Prop1 : Ctx → Expr1 → Prop
  | abs_rule (Γ : Ctx) (xs : List String) (b : Expr1) :
      Prop1 Γ b → -- changing this `Γ` back to `(xs.reverse ++ Γ)` eliminates the errors below
      Prop1 Γ (.abs xs b)

theorem thm (Γ : Ctx) (e : Expr1) : Prop1 Γ e → True := by
  intro h
  match h with /- ERROR (spurious?): Case tag 'rhs' not found. There are no cases to select. -/
  | .abs_rule Γ xs b hb => /- ERROR:
    type mismatch
      Prop1.abs_rule Γ xs b hb
    has type
      Prop1 Γ (Expr1.abs xs b) : Prop
    but is expected to have type
      Prop1 Γ✝ e : Prop
    -/
    trivial
-- Changing `match h with | ... =>` back to `cases h with | abs_rule xs b hb =>`
-- also eliminates the errors (note the omission of Γ).
```
</details>

*Update:* Never mind, using "_" instead of "Γ" eliminates the error.

**Comment by joehendrix** [comment]
I'm getting what I think is a very similar problem in some code.

I've created a minimized example below: 

```
inductive Expr (Identifier : Type) : Type where
  | mk (c : String)

def fv {I:Type} (e : Expr I) : List I := sorry

def eql {I:Type} [DecidableEq I] (e : Expr I) (_h1 : fv e == []) : Nat := sorry

def eval {I:Type} [DecidableEq I] (n : Nat) (e : Expr I) : Nat :=
  match n with
  | 0 => 0
  | Nat.succ n' =>
    let e2' := eval n' e
    eql e sorry
  termination_by n
```

The error message I see is:

```
(kernel) application type mismatch
  @Eq.ndrec (Expr I) e✝ (fun e => (fv I e == []) = true) _h1
argument has type
  (fv I e✝ == []) = true
but function has type
  (@fun e => (fv I e == []) = true) e✝ → ∀ {b : Expr I}, e✝ = b → (@fun e => (fv I e == []) = true) b
```

This seems connected to the well-founded checker since removing the `termination_by` fixes the error.

The actual code is quite complex.  I've been able to work around the bug, but I think a fix or at least a root cause analysis would be really great.  The kernel seems to be not beta-reducing the function signature, but I'm not sure of the cause.

**Comment by nomeata** [comment]
Workaround:
```

inductive Expr (Identifier : Type) : Type where
  | mk (c : String)


def fv {I:Type} (e : Expr I) : List I := sorry


def eql {I:Type} [DecidableEq I] (e : Expr I) (_h1 : fv e == []) : Nat := sorry


def eval {I:Type} [DecidableEq I] (n : Nat) (e : Expr I) : Nat :=
  match (generalizing := false) n with
  | 0 => 0
  | Nat.succ n' =>
    let e2' := eval n' e
    eql e sorry
  termination_by n
```

**Comment by joehendrix** [comment]
Unfortunately that didn't seem help when using the lastest nightly build.  A fix that has helped is changing the signature of `eql` to the following:

```
def eql {I:Type} [DecidableEq I] (e : Expr I) (_h1 : (fv e).isEmpty) : Nat := sorry
```

The surprising thing for me is the check is in a function.  This is closer to the original:

```
inductive Expr (Identifier : Type) : Type where
  | mk (c : String)

def fv {I:Type} (e : Expr I) : List I := sorry

def Expr.closed {I:Type} [DecidableEq I] (e : Expr I) := fv e == []

-- This definition avoids the error:
-- def Expr.closed {I:Type} [DecidableEq I] (e : Expr I) := fv e |>.isEmpty

def eql {I:Type} [DecidableEq I] (e : Expr I) (_h1 : e.closed) : Nat := sorry

def eval {I:Type} [DecidableEq I] (n : Nat) (e : Expr I) : Nat :=
  match (generalizing := false) n with
  | 0 => 0
  | Nat.succ n' =>
    let e2' := eval n' e
    eql e sorry
  termination_by n
```

**Comment by nomeata** [comment]
My bad, I shouldn’t try to be helpful on the phone using live.lean-lang.org – I was on the RC, but there your code passes also.

This makes it very likely that that you are looking at a separate issue than the one reported originally, since that does trigger with  4.22.0-rc3.

**Comment by nomeata** [comment]
Let’s continue this on https://github.com/leanprover/lean4/issues/9388
